US04385066
N-[2-(4-Carbomethoxy-2-methoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared as in Example 1b from 1-(4-carbomethoxy-2-methoxyphenyl)propan-2-one (3.0 g) and 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine (2.77 g). The compound crystallised from hexane m.p. 88°-100° as a 70:30 mixture of diastereoisomers. τ(CDCl3) 8.8 (3H,d,J=6 Hz), 6.7-7.7 (5H,m,+2H replaceable by D2O), 6.1 (3H,s), 6.0 (3H,s), 5.2 (1H, m), 2.8 (2H,d,J=8 Hz), 2.2-2.6 (6H,m).

reactant | 1-(4-carbomethoxy-2-methoxyphenyl)propan-2-one | 3.0 g | C(=O)(OC)C1=CC(=C(C=C1)CC(C)=O)OC | C12H14O4
reactant | 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | 2.77 g | OC(CN)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
product | N-[2-(4-Carbomethoxy-2-methoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | C(=O)(OC)C1=CC(=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O)OC | C21H24F3NO4
